US08802664B2
To a suspension of magnesium (86 mg) in tetrahydrofuran is added a solution of 6-bromobenzo[b]thiophene (which can be prepared according to WO2006/107784) (500 mg) in tetrahydrofuran. After reflux for 3 h, a solution of 1-(2-trimethylsilylethoxymethyl)-1H-benzimidazole-2-carbaldehyde (which can be prepared according to US2003/220341 or US6476041 for example) (635 mg) in tetrahydrofuran is added to the Grignard reagent at room temperature. After stirring for 12 h, the reaction mixture is treated with diluted hydrochloric acid and the organic phase is dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography over silica gel (gradient dichloromethane/methanol from 100/0 to 90/10) to afford benzo[b]thiophen-6-yl[1-(2-trimethylsilylethoxymethyl)-1H-benzimidazol-2-yl]methanol.

reactant | magnesium | 86 mg | [Mg] | Mg
reactant | 6-bromobenzo[b]thiophene | 500 mg | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | 1-(2-trimethylsilylethoxymethyl)-1H-benzimidazole-2-carbaldehyde | 635 mg | C[Si](CCOCN1C(=NC2=C1C=CC=C2)C=O)(C)C | C14H20N2O2Si
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzo[b]thiophen-6-yl[1-(2-trimethylsilylethoxymethyl)-1H-benzimidazol-2-yl]methanol | S1C2=C(C=C1)C=CC(=C2)C(O)C2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C22H26N2O2SSi
